US09108939B2
tert-Butyl 4-(4-nitrophenylsulfonyl)piperidine-1-carboxylate (2.214 mmol, 820 mg) was dissolved in dichloromethane (10 mL). Trifluoroacetic acid (2 mL) was added and the reaction stirred at room temperature for 1 hour. The reaction mixture was concentrated under vacuum and purified by SCX chromatography to give the intermediate 4-(4-nitrophenylsulfonyl)piperidine (640 mg).

reactant | tert-Butyl 4-(4-nitrophenylsulfonyl)piperidine-1-carboxylate | 2.214 mmol, 820 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O6S
reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(4-nitrophenylsulfonyl)piperidine | 640 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)C1CCNCC1 | C11H14N2O4S
